US06826033B2
To an ice-cooled solution of (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (83 mg) in dichloromethane (0.8 ml) was added dropwise ethyl isocyanate (0.016 ml). The mixture was stirred at the same temperature for 1.5 hours and partitioned between chloroform and saturated sodium bicarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated and the residue was purified by column chromatography (silica gel, chloroform/methanol) to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-ethylurea (84 mg) as a white amorphous powder.

reactant | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 83 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
reactant | ethyl isocyanate | 0.016 ml | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-N′-ethylurea | 84 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NCC)CO | C28H35N3O4
